US04675335
10-Hydroxy-n-decyltriphenylphosphonium bromide
A solution 10-bromodecanol (23.7 g) and triphenylphosphine (78.6 g) in dry acetonitrile (100 ml) was refluxed for 48 hours.

reactant | 10-bromodecanol | 23.7 g | BrCCCCCCCCCCO | C10H21BrO
reactant | triphenylphosphine | 78.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 10-Hydroxy-n-decyltriphenylphosphonium bromide | [Br-].OCCCCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H36OP.BrH/c29-24-16-5-3-1-2-4-6-17-25-30(26-18-10-7-11-19-26,27-20-12-8-13-21-27)28-22-14-9-15-23-28;/h7-15,18-23,29H,1-6,16-17,24-25H2;1H/q+1;/p-1
